US08420661B2
Step 1: 1-(5-Bromo-pyrazin-2-yl)-4,4-dimethyl-pyrrolidin-2-one
To a well stirred suspension of 2-bromo-5-iodopyrazine (300 mg, 1.05 mmol), 4,4-dimethylpiperidin-2-one (155 mg, 1.37 mmol, 1.3 equiv.) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (xantphos) (24.4 mg, 0.042 mmol, 0.04 equiv.) in 4 ml of toluene were added under argon atmosphere tris(dibenzylideneacetone)dipalladium(0) (Pd2(dba)3), (19.3 mg, 0.021 mmol, 0.02 equiv.) and the mixture was stirred for 5 hours at 100° C. The crude mixture was adsorbed on silicagel and purified by flash chromatography over a 20 g silicagel column using a 2:1 heptane/ethyl acetate mixture as eluant. The title compound (151 mg, 53% yield) was obtained as a white solid, MS: m/e=270.1, 272.1 (M+H+).

reactant | 2-bromo-5-iodopyrazine | 1.05 mmol, 300 mg | BrC1=NC=C(N=C1)I | C4H2BrIN2
reactant | 4,4-dimethylpiperidin-2-one | 1.37 mmol, 155 mg, 1.3 equiv. | CC1(CC(NCC1)=O)C | C7H13NO
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.021 mmol, 19.3 mg, 0.02 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.042 mmol, 24.4 mg, 0.04 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 1-(5-Bromo-pyrazin-2-yl)-4,4-dimethyl-pyrrolidin-2-one | 151 mg, 53% yield | BrC=1N=CC(=NC1)N1C(CC(C1)(C)C)=O | C10H12BrN3O
